US04173633
The starting material is prepared as follows: To the solution of 47.5 g of 2-piperidinomethyl-5-methoxy-1-indanone hydrochloride (m.p. 177°-180°) in 290 ml of water, 13.5 ml of concentrated hydrochloric acid are added, followed by the slow addition of the solution of 21 g of potassium cyanide in 160 ml of water, which is introduced below the surface of the liquid. The mixture is refluxed for 21/2 hours, cooled, the resulting precipitate filtered off and dried, to yield the 2-cyanomethyl-5-methoxy-1-indanone, melting at 117°-120°.

reactant | 2-piperidinomethyl-5-methoxy-1-indanone hydrochloride | 47.5 g | Cl.N1(CCCCC1)CC1C(C2=CC=C(C=C2C1)OC)=O
reactant | potassium cyanide | 21 g | [C-]#N.[K+]
solvent | water | 290 ml | O | H2O
solvent | hydrochloric acid | 13.5 ml | Cl | ClH
solvent | water | 160 ml | O | H2O
product | 2-cyanomethyl-5-methoxy-1-indanone | C(#N)CC1C(C2=CC=C(C=C2C1)OC)=O | C12H11NO2
